US06251926B1
A mixture of 2-chloromethyiquinoline hydrochloride (488 mg), methyl E-4-(4-hydroxybenzyloxyimino)-4-phenylbutyrate (650 mg), potassium carbonate (1.00 g) and N,N-dimethylformamide (10 ml) was stirred at room temperature for 13 hours. Water was added to the reaction mixture and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was subjected to silica gel chromatography to obtain methyl E-4-phenyl-4-[4-(2-quinolinylmethoxy)benzyloxyimino]butyrate (655 mg, yield 70%) as a colorless oil from an ethyl acetate-hexane (1:4, v/v)-eluted fraction.

reactant | 2-chloromethyiquinoline hydrochloride | 488 mg | Cl.ClCC1=NC2=CC=CC=C2C=C1
reactant | methyl E-4-(4-hydroxybenzyloxyimino)-4-phenylbutyrate | 650 mg | OC1=CC=C(CO\N=C(/CCC(=O)OC)\C2=CC=CC=C2)C=C1 | C18H19NO4
reactant | potassium carbonate | 1.00 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | Water | O | H2O
product | methyl E-4-phenyl-4-[4-(2-quinolinylmethoxy)benzyloxyimino]butyrate | 655 mg, yield 70% | C1(=CC=CC=C1)/C(/CCC(=O)OC)=N/OCC1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1 | C28H26N2O4
